US05439917
6-Amino-2,3-dimethyl-7-(2-phenylethyl)-pyrrolo[2,3-b]pyridine hydrobromide
A solution of 6-amino-2,3 -dimethyl-pyrrolo [2,3-b]pyridine (1.0 g, 6,2 mmol ) and phenethyl bromide (1,7 g, 9,3 mmol ) in 30 ml CH3CN was refluxed for 48 h. The mixture was allowed to cool and the precipitate was filtered off. Chromatography on silica gel eluting with methylene chloride and methanol (9:1) gave the desired product (0,1 g, 6%).

reactant | 6-amino-2,3 -dimethyl-pyrrolo [2,3-b]pyridine | 6,2 mmol, 1.0 g | NC1=CC=C2C(=N1)NC(=C2C)C | C9H11N3
reactant | phenethyl bromide | 9,3 mmol, 1,7 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 6-Amino-2,3-dimethyl-7-(2-phenylethyl)-pyrrolo[2,3-b]pyridine hydrobromide | 0,1 g, 6% | Br.NC1=CC=C2C(N1CCC1=CC=CC=C1)=NC(=C2C)C | InChI=1S/C17H19N3.BrH/c1-12-13(2)19-17-15(12)8-9-16(18)20(17)11-10-14-6-4-3-5-7-14;/h3-9H,10-11,18H2,1-2H3;1H
